US06872834B2
Step B Preparation of 4-(methoxyethoxymethyl)benzaldehyde
Sodium hydride (2.4 g (60%), 60 mmol) was added to 4-hydroxybenzaldehyde (6.0 g, 50 mmol) in N, N-dimethylformamide (100 mL). The suspension was stirred for 1 hour and then treated with 2-methoxyethoxymethyl chloride (6.8 mL, 60 mmol), and allowed to stir an additional 16 hours. The reaction was then partitioned between water and ether:ethyl acetate (1:1). The organics were then washed with water (4×), dried (potassium carbonate), and concentrated. The crude materials were then purified by silica gel chromatography (hexanes:ethyl acetate) to afford the title compound (9.0 g).

reactant | Sodium hydride | 60 mmol, 2.4 g | [H-].[Na+]
reactant | 4-hydroxybenzaldehyde | 50 mmol, 6.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-methoxyethoxymethyl chloride | 60 mmol, 6.8 mL | COCCOCCl | C4H9ClO2
solvent | N, N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(methoxyethoxymethyl)benzaldehyde | 9.0 g | COCCOCC1=CC=C(C=O)C=C1 | C11H14O3
